US04703052
(i) Ethyl 2-bromomethyl-2,3-dihydrobenzofuran-5-carboxylate
To a solution of 5.0 g (22.5 mmole) ethyl 2-hydroxymethyl-2,3-dihydrobenzofuran-5-carboxylate in 80 ml methylene chloride under nitrogen was added in one portion 6.5 (24.7 mmole) triphenylphosphine and the resulting solution was stirred for ten minutes. To this was added, in portions over twenty minutes, 4.39 g (24.7 mmole) N-bromosuccinimide and the resulting mixture was stirred overnight at room temperature. The mixture was diluted with methylene chloride, extracted with water, brine and dried (MgSO4). Evaporation in vacuo afforded an oil which was triturated with ethyl ether and filtered to remove insoluble triphenylphosphine oxide. Evaporation of the filtrate yielded 8.4 g of crude product which was charged to a column containing 200 g silica gel and eluted with methylene chloride to provide 5.29 g of purified product, TLC Rf 0.85. Mass spectrum (m/e) 286 (M+). 1H-NMR(CDCl3) ppm(delta): 3.2 (CH2Br), 3.6 (benzyl CH2).

reactant | ethyl 2-hydroxymethyl-2,3-dihydrobenzofuran-5-carboxylate | 22.5 mmole, 5.0 g | OCC1OC2=C(C1)C=C(C=C2)C(=O)OCC | C12H14O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 24.7 mmole, 4.39 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-bromomethyl-2,3-dihydrobenzofuran-5-carboxylate | 5.29 g | BrCC1OC2=C(C1)C=C(C=C2)C(=O)OCC | C12H13BrO3
